US05536737
b) (S)-2-[[(S)-2-(1-Hydroxy-2-(phenylmethyloxy)ethyl]-1-pyrrolidinyl]carbonyl]-N-(phenylmethyl)-1-pyrrolidinecarboxamide
Diphenylphosphoryl azide (259.2 g), triethylamine (80.8 g) and (S)-2-[1-hydroxy-2-(phenylmethyloxy)ethyl]pyrrolidine (176.6 g) were added to a solution of N-(benzylaminocarbonyl)-L-proline obtained by stirring L-proline (91.9 g), benzyl isocyanate (90.3 g) and triethylamine (80.8 g) in DMF (900 ml) at room temperature for 1 hour, and the mixture was stirred at room temperature overnight. The reaction mixture was poured into a 7% aqueous solution of citric acid and extracted with ethyl acetate. The extract was washed with water, saturated sodium hydrogenbicarbonate and water in order, dried over sodium sulfate, and concentrated to give the title compound (330.9 g).

reactant | Diphenylphosphoryl azide | 259.2 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | (S)-2-[1-hydroxy-2-(phenylmethyloxy)ethyl]pyrrolidine | 176.6 g | OC(COCC1=CC=CC=C1)[C@H]1NCCC1 | C13H19NO2
reactant | N-(benzylaminocarbonyl)-L-proline | C(C1=CC=CC=C1)NC(=O)N1[C@H](C(=O)O)CCC1 | C13H16N2O3
reactant | L-proline | 91.9 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | benzyl isocyanate | 90.3 g | C(C1=CC=CC=C1)N=C=O | C8H7NO
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | 900 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 80.8 g | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 80.8 g | C(C)N(CC)CC | C6H15N
product | (S)-2-[[(S)-2-(1-Hydroxy-2-(phenylmethyloxy)ethyl]-1-pyrrolidinyl]carbonyl]-N-(phenylmethyl)-1-pyrrolidinecarboxamide | 330.9 g | OC(COCC1=CC=CC=C1)[C@H]1N(CCC1)C(=O)[C@H]1N(CCC1)C(=O)NCC1=CC=CC=C1 | C26H33N3O4
